US06884821B1
A solution of 15.9 g 2,4-dichlorobenzoyl chloride in tetrahydrofuran (15 ml) was added dropwise to a solution of 18.67 g ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 7.7 g triethylamine in diethyl ether (300 ml) under ice-cooling. After stirring under ice-cooling for 30 minutes and further at room temperature for 30 minutes, the reaction solution was poured into 500 ml water and extracted with 300 ml ethyl acetate. The organic layer was successively washed with 200 ml saturated aqueous sodium bisulfate, 200 ml saturated sodium hydrogencarbonate and 200 ml brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was purified by silica gel column chromatography (eluting solvent: hexane-ethyl acetate), to give 28.2 g of ethyl 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate identical in TLC and 1H-NMR to the compound obtained in Example 31g) as a colorless solid.

reactant | 2,4-dichlorobenzoyl chloride | 15.9 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 18.67 g | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | triethylamine | 7.7 g | C(C)N(CC)CC | C6H15N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | ethyl 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate | 28.2 g | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)OCC)OC(C)C)C=CC(=C1)Cl | C23H27Cl2NO5
